* Frozen netlist snapshot for record 20260801-064120-ca66de6
* source     : sim/bias-core-startup/testbench/tb_bias_core_startup.spice
* sha256     : b182cd43065874adb8e51b9b12848f940d83f5db3b30b6b5a0bdc00e08f8cd51
* This is a verbatim copy taken at record time. Do not edit.
* tb_bias_core_startup -- GENERATED by sim/build_tb.py
* Do not edit. Sources:
*   sim/bias-core-startup/testbench/stimulus.spice
*   design/netlist/bias_core.spice  (sha256 0fe8df0ad0bfa42fe4ae7e176fe2db8282bbbabf78bc2daa486918a09c7de829)
* Regenerate with:
*   python3 sim/build_tb.py

* bias-core-startup -- stimulus half of the testbench fragment.
*
* The other half is a verbatim copy of design/netlist/bias_core.spice,
* appended by sim/build_tb.py to produce tb_bias_core_startup.spice. Edit
* THIS file (or the schematic), never the generated fragment.
*
* Netlist FRAGMENT: no .include / .lib / .temp / .control / .end -- the
* harness owns those. Parameters it supplies: vdd_val, vdd_nom, temp_c.
*
* A QUASI-STATIC RAIL SWEEP, not a transient. The analysis is a DC sweep of
* the DUT's own supply from 0 V to 3.63 V in 2 mV steps, and ngspice seeds
* each step's Newton solve with the previous step's solution -- so the sweep
* tracks the branch a real, arbitrarily slow ramp would sit on, and it will
* stay on a wrong branch if one exists. That is exactly the property this
* experiment needs, and it is why the sweep is the primary startup-ordering
* evidence rather than one transient at one arbitrary ramp rate:
*
*   - A transient always starts from 0 V with every node at 0, so it visits
*     one trajectory. A branch-tracking DC sweep visits the whole rail range
*     and reports where the circuit actually sits at each rail.
*   - The result is RAMP-RATE INDEPENDENT. spec/target-spec.md#por-ramp-rate
*     ratifies a 1 V/s ... 1 V/us envelope and assigns sweeping it (both
*     endpoints plus a decade inside each) to #14. Picking one rate here
*     would produce a number #14 has to redo; the quasi-static limit is the
*     one statement that is true for every rate in the envelope.
*   - The DEAD-state half of the claim -- that the degenerate zero-current
*     solution is not stable anywhere on the grid -- is covered separately,
*     and more strongly, by sim/bias-core-designer-check/'s `vref_dead_v`,
*     which seeds the DC solve IN that state at all 81 points.
*
* This sweep caught a real defect during design: an earlier revision of the
* startup detector (a native-device pull-UP on a sensed node, so that the
* node's own rise turned the pull-up off through the body effect) tracked a
* second, high-current branch with VREF pinned near VDD - 0.2 V from 1.4 V of
* rail all the way to 3.3 V at ss/-40 C. A per-point `op` at 2.97/3.30/3.63 V
* converged to the correct solution and showed none of it. See
* design/bias_core.md, "Startup".
*
* The supply axis of the PVT grid is deliberately degenerate for this
* experiment: a rail sweep passes through 2.97, 3.30 and 3.63 V on its way up,
* so the three supply points of the mandated grid produce identical curves by
* construction. The grid is still run in full -- the record must not claim a
* subset -- and no spread-based check is used on any measurement here.
*
* IBIAS carries the same consumer-diode replica load the other two bias_core
* experiments use (temp_core's XMBD 4u/2u and por_comparator's XMBD 2u/2u,
* verbatim from the exported netlists).

vramp vdd 0 dc 0
xdut vdd 0 ibsrc vref bias_ok bias_core
vib ibsrc ibias dc 0
xldt ibias ibias 0 0 nfet_03v3 L=2u W=4u nf=1 m=1
xldc ibias ibias 0 0 nfet_03v3 L=2u W=2u nf=1 m=1

* bias_core -- generated by design/netlist.py from design/bias_core.sch
* Do not edit: edit the schematic and re-run the export.
** sch_path: design/bias_core.sch
.subckt bias_core VDD VSS IBIAS VREF BIAS_OK
*.PININFO VDD:B VSS:B IBIAS:O VREF:O BIAS_OK:O
XMP1 NA PG VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP2 NB PG VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP3 VREF PG VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMP4 IBIAS PG VDD VDD pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMT NT PG VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMS2P PG PB VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP PB PB VDD VDD pfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN PB N1 VSS VSS nfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XQ1 VSS VSS NA pnp_10p00x10p00 m=1
XQ8A VSS VSS NC pnp_10p00x10p00 m=1
XQ8B VSS VSS NC pnp_10p00x10p00 m=1
XQ8C VSS VSS NC pnp_10p00x10p00 m=1
XQ8D VSS VSS NC pnp_10p00x10p00 m=1
XQ8E VSS VSS NC pnp_10p00x10p00 m=1
XQ8F VSS VSS NC pnp_10p00x10p00 m=1
XQ8G VSS VSS NC pnp_10p00x10p00 m=1
XQ8H VSS VSS NC pnp_10p00x10p00 m=1
XQR VSS VSS NRE pnp_10p00x10p00 m=1
XR1 NB NC VSS ppolyf_u_3k r_width=1u r_length=299u m=1
XR3 VREF NRE VSS ppolyf_u_3k r_width=1u r_length=3580u m=1
XMI1 N1 NA NT NT pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMI2 N2 NB NT NT pfet_03v3 L=4u W=8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XML1 N1 N1 VSS VSS nfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XML2 N2 N1 VSS VSS nfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMS2N PG N2 VSS VSS nfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCC PG NZ cap_mim_2f0_m3m4_noshield c_width=45u c_length=45u m=1
XRZ NZ N2 VSS ppolyf_u_3k r_width=2u r_length=366u m=1
XMSU4 NK PG VDD VDD pfet_03v3 L=8u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNAT NK VSS NSD VSS nfet_06v0_nvt L=50u W=0.8u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=16
XRDEG NSD VSS VSS ppolyf_u_3k r_width=1u r_length=1600u m=1
XMSU3 VSS NK PG PG pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNKP NKB NK VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNKN NKB NK VSS VSS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMOKP NOK PG VDD VDD pfet_03v3 L=16u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMOKD NOK NK VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMOKS NOK VREF VSS VSS nfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMHD NHD VREF VDD VDD pfet_03v3 L=2u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMHDL NHD N1 VSS VSS nfet_03v3 L=8u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMHBP NHDB NHD VDD VDD pfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMHBN NHDB NHD VSS VSS nfet_03v3 L=0.5u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNRP1 NRX NOK VDD VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNRP2 BIAS_OK NHDB NRX VDD pfet_03v3 L=0.5u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNRN1 BIAS_OK NOK VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNRN2 BIAS_OK NHDB VSS VSS nfet_03v3 L=0.5u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMOKZ BIAS_OK NKB VSS VSS nfet_03v3 L=0.5u W=16u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends
